* IKW40N120H3 IGBT SPICE Model
* Infineon Technologies
* 1200V, 40A IGBT in Trench and Fieldstop technology
* with fast, soft recovery antiparallel diode
* Model version: 1.0
* Date: 2024
*
* This model represents the IKW40N120H3 IGBT with integrated freewheeling diode
* Suitable for ngspice and KiCad simulation
*
* Pin Configuration (TO-247-3 package):
* Pin 1: Gate (G)
* Pin 2: Collector (C) - also connected to backside/heatsink tab
* Pin 3: Emitter (E)
*
* Circuit symbol:
*        C (Collector)
*        |
*        |
*    G --+-- IGBT
*        |
*        E (Emitter)
*
* Antiparallel diode: Cathode at C, Anode at E

***************************************************************************
* Main Subcircuit: IKW40N120H3
***************************************************************************
.subckt IKW40N120H3 C G E
* Nodes: Collector, Gate, Emitter

***************************************************************************
* IGBT Core Model
***************************************************************************
* Using Hefner IGBT model approach
* Simplified behavioral model for circuit-level simulation

* Gate-emitter capacitance (Cies = 2330pF)
Cge G E 2330p

* Collector-emitter capacitance (Coes = 185pF)
Cce_int C_int E 185p

* Reverse transfer capacitance (Miller capacitance, Cres = 130pF)
Cgc G C_int 130p

* Gate resistor for damping
Rg_int G N_gate 1

* Gate threshold detection with temperature coefficient
* Vth = 5.8V typical, range 5.0-6.5V
* Negative temperature coefficient: -6mV/°C typical
B_vth N_vth E V={5.8 + TEMP*(-0.006)}
R_vth N_vth E 1MEG

* Gate voltage clamping for protection
D_ge_clamp G E DCLAMP
D_eg_clamp E G DCLAMP

* Transconductance control
* gfs = 20 S at 40A
* IC = gfs * (VGE - Vth) in linear region
B_gm N_gm E V={IF(V(N_gate,E) > V(N_vth,E), 20*(V(N_gate,E) - V(N_vth,E)), 0)}
R_gm N_gm E 1MEG

* Collector current source (voltage-controlled)
* Includes VCEsat characteristic
* VCEsat = 2.05V @ 40A, 25°C; 2.5V @ 125°C; 2.7V @ 175°C
* Temperature coefficient: +3.5mV/°C
B_ic C_int N_ce_int I={
+ IF(V(N_gate,E) < V(N_vth,E), 0,
+   IF(V(C_int, N_ce_int) > (2.05 + 0.0035*TEMP + V(N_gm,E)*0.01),
+     V(N_gm,E),
+     V(C_int, N_ce_int) / (2.05 + 0.0035*TEMP + 0.01) * V(N_gm,E)
+   )
+ )
+}

* On-state resistance representation
* Ron derived from VCEsat/IC characteristic
R_ce N_ce_int E {2.05/40}

* Collector-emitter leakage current (ICES)
* 250uA @ 25°C, 2500uA @ 175°C
B_ices C_int E I={IF(V(N_gate,E) < 1.0,
+ 250e-6 * exp((TEMP-25)/60), 0)}

* Parasitic NPN for latch-up modeling (simplified)
Q_latch N_ce_int N_base E QLATCH
R_base N_base E 10k
D_base_clamp N_base E DCLAMP

* Internal inductance (13nH from datasheet)
L_e_int N_ce_int E 13n

***************************************************************************
* Antiparallel Freewheeling Diode Model
***************************************************************************
* Fast, soft recovery diode
* VF = 2.4V typ @ 40A, 25°C
* Reverse recovery: trr = 355ns, Qrr = 1.9uC @ 25°C

* Main diode with temperature-dependent forward voltage
D_fwd E C_int DFWD

* Reverse recovery charge modeling
* Simplified charge storage model
B_qrr N_qrr E I={
+ IF(I(V_diode_sense) > 0.1,
+   I(V_diode_sense) * 1.9e-6 / 40,
+   0
+ )
+}
C_qrr N_qrr E 100p
R_qrr N_qrr E 355

* Diode current sense for reverse recovery
V_diode_sense C_int C_fwd 0
R_diode_int C_fwd E 0.01

* Diode capacitance
C_diode E C_int 50p

***************************************************************************
* Device Models
***************************************************************************
* Gate clamping diode (Zener-like)
.model DCLAMP D (IS=1e-15 RS=0.1 BV=20 IBV=1m)

* Freewheeling diode model
* IS scaled for 40A rating
* RS gives proper VF @ rated current: VF = 2.4V @ 40A
* Temperature coefficient built in
.model DFWD D (
+ IS=1e-10
+ RS={2.4/40}
+ N=2.0
+ TT=355n
+ CJO=50p
+ VJ=0.6
+ M=0.4
+ BV=1200
+ IBV=250u
+ EG=1.11
+ XTI=3.0
+ TRS1=0.001
+)

* Parasitic NPN transistor
.model QLATCH NPN (
+ BF=2
+ IS=1e-15
+ VAF=50
+ IKF=10
+ CJE=100p
+ CJC=50p
+ TF=100n
+)

* Temperature-dependent parameters
.param TEMP=25

.ends IKW40N120H3

***************************************************************************
* Additional Notes for Simulation
***************************************************************************
* 1. This is a behavioral model optimized for circuit-level simulation
* 2. Key characteristics modeled:
*    - Gate threshold and transconductance
*    - VCEsat vs temperature
*    - Switching capacitances (Cies, Coes, Cres)
*    - Diode forward drop and reverse recovery
*    - Leakage currents
* 3. Not modeled in detail:
*    - Detailed switching transients (use parasitic L, C from test circuit)
*    - Short circuit behavior (requires physical device model)
*    - Extreme temperature effects beyond linear coefficients
* 4. For accurate switching loss simulation, include:
*    - Gate driver output impedance
*    - PCB parasitic inductances
*    - Snubber circuits
* 5. Typical simulation parameters for induction cooker:
*    - VGE = 0/15V
*    - VCE up to 600V
*    - IC = 20-40A
*    - fsw = 20-100kHz
*    - RG(on) = RG(off) = 2-12 ohms
***************************************************************************
